US03954983
Commercially available 4-methyl-1-tetralone, 32.0 grams, contained in 250 ml. of chloroform and 50 ml. of ethyl acetate is heated to boiling. A mixture of 98.3 grams of cupric bromide and 50 ml. of ethyl acetate is heated to its reflux temperature. After all of the hydrogen bromide is evolved, the mixture is maintained at its reflux temperature for an additional hour. The reaction mixture is filtered while hot, the residue washed with boiling chloroform and the combined filtrates evaporated to dryness in vacuo. The residue is dissolved in a minimum of methylene chloride, placed upon an alumina column and eluted with methylene chloride. The eluate is concentrated and the desired 2-bromo-4-methyl-1-tetralone obtained as a dark oil.

reactant | 4-methyl-1-tetralone | CC1CCC(C2=CC=CC=C12)=O | C11H12O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydrogen bromide | Br | BrH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-4-methyl-1-tetralone | BrC1C(C2=CC=CC=C2C(C1)C)=O | C11H11BrO
